US07125900B2
Ethyl 4-methyl-2-{[(4-propylphenyl)sulfonyl]amino}-1,3-thiazole-5-carboxylate
This compound was prepared from ethyl 2-amino-4-methylthiazole-5-carboxylate and 4-n-propylbenzenesulfonyl chloride as described for EXAMPLE 30 with the exception that it was not recrystallized. Yield 315 mg, 85%: 1H NMR (DMSO) δ 7.70 (d, 2H), 7.37 (d, 2H), 4.21 (q, 2H), 2.60 (t, 2H) 2.38 (s, 3H), 1.58 (t, 2H), 1.25 (t, 3H), 0.87 (t, 3H); MS-ES (neg) m/z 367.2.

reactant | ethyl 2-amino-4-methylthiazole-5-carboxylate | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
reactant | 4-n-propylbenzenesulfonyl chloride | C(CC)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
product | Ethyl 4-methyl-2-{[(4-propylphenyl)sulfonyl]amino}-1,3-thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)NS(=O)(=O)C1=CC=C(C=C1)CCC | C16H20N2O4S2
